US07423052B2
Description 1 (RS)-2-(5-Phenyl-[1,3,4]oxadiazol-2-ylmethyl)-piperidine-1-carboxylic acid tert butyl ester
A mixture of 2carboxymethyl-piperidine-1-carboxylic acid tert butyl ester (1.22 g), (Peschke, Bernd; Ankersen, Michael; Hansen, Birgit Sehested; Hansen, Thomas Kruse; Johansen, Nils Langeland; Lau, Jesper; Madsen, Kjeld; Petersen, Hans; Thogersen, Henning; Watson, Brett. Eur. J. Med. Chem. (1999), 34(5), 363-380), dicyclohexylcarbodiimide (1.05 g) and 5-phenyltetrazole (0.73 g) in toluene (25 ml) was heated at 100° C. for 3 h. The reaction mixture was cooled to room temperature, diluted with diethyl ether and solvent decanted from the precipitated gum. The gum was column chromatographed (silica gel, 0-50% ethyl acetate in pentane eluant) to give the title compound (1.1 g).

reactant | 2carboxymethyl-piperidine-1-carboxylic acid tert butyl ester | 1.22 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)O | C12H21NO4
reactant | dicyclohexylcarbodiimide | 1.05 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 5-phenyltetrazole | 0.73 g | C1(=CC=CC=C1)C1=NN=NN1 | C7H6N4
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | (RS)-2-(5-Phenyl-[1,3,4]oxadiazol-2-ylmethyl)-piperidine-1-carboxylic acid tert butyl ester | 1.1 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC=1OC(=NN1)C1=CC=CC=C1 | C19H25N3O3
